US07968720B2
[5-(2-Amino-ethyl)-2-chloro-benzyl]-cyclopropyl-carbamic Acid tert-butyl Ester
Me3P (1M in toluene, 4.20 mL, 4.20 mmol) was added to a sol. of [5-(2-azido-ethyl)-2-chloro-benzyl]-cyclopropyl-carbamic acid tert-butyl ester (1.49 g, 4.25 mmol) in THF (13.0 mL), and the mixture was stirred at rt for 5 h. Phosphate buffer (pH 7.4, DPBS Gibco 14200, diluted 10×) was added, and the mixture was extracted with CH2Cl2 several times. The combined org. extracts were dried over MgSO4, filtered, and the solvents were removed under reduced pressure. Drying the residue under high vacuum yielded the crude title compound (1.34 g, 97%) that was used further without purification. LC-MS: tR=0.81 min; ES+: 325.18.

reactant | Me3P | 4.20 mmol, 1M, 4.20 mL | P(C)(C)C | C3H9P
reactant | [5-(2-azido-ethyl)-2-chloro-benzyl]-cyclopropyl-carbamic acid tert-butyl ester | 4.25 mmol, 1.49 g | C(C)(C)(C)OC(N(C1CC1)CC1=C(C=CC(=C1)CCN=[N+]=[N-])Cl)=O | C17H23ClN4O2
reactant | Phosphate | pH 7.4 | P(=O)([O-])([O-])[O-]
solvent | THF | 13.0 mL | C1CCOC1 | C4H8O
product | [5-(2-Amino-ethyl)-2-chloro-benzyl]-cyclopropyl-carbamic Acid tert-butyl Ester | 1.34 g, 97% | C(C)(C)(C)OC(N(C1CC1)CC1=C(C=CC(=C1)CCN)Cl)=O | C17H25ClN2O2
